US07449466B2
Production Example 30 was repeated except that 1-(4-benzyloxy-3-chlorophenyl)-4-(3-cyclohexylpropyl)piperazine was replaced with 4-[4-(4-benzyloxy-3-fluorophenyl)piperazin-1-yl]-1-(4-tert-butylphenyl)-1-butanone (274 mg), to provide 1-(4-tert-butylphenyl)-4-[4-(3-fluoro-4-hydroxyphenyl)piperazin-1-yl]-1-butanone hydrochloride (191 mg).

reactant | 1-(4-benzyloxy-3-chlorophenyl)-4-(3-cyclohexylpropyl)piperazine | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)N1CCN(CC1)CCCC1CCCCC1)Cl | C26H35ClN2O
reactant | 4-[4-(4-benzyloxy-3-fluorophenyl)piperazin-1-yl]-1-(4-tert-butylphenyl)-1-butanone | 274 mg | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)N1CCN(CC1)CCCC(=O)C1=CC=C(C=C1)C(C)(C)C)F | C31H37FN2O2
product | 1-(4-tert-butylphenyl)-4-[4-(3-fluoro-4-hydroxyphenyl)piperazin-1-yl]-1-butanone hydrochloride | 191 mg | Cl.C(C)(C)(C)C1=CC=C(C=C1)C(CCCN1CCN(CC1)C1=CC(=C(C=C1)O)F)=O | InChI=1S/C24H31FN2O2.ClH/c1-24(2,3)19-8-6-18(7-9-19)22(28)5-4-12-26-13-15-27(16-14-26)20-10-11-23(29)21(25)17-20;/h6-11,17,29H,4-5,12-16H2,1-3H3;1H
